Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with 3 falls in the past day. Unclear cause of
falls, pt does not know why she fell. 2 falls while walking, 1
fall getting up from chair.  No LOC.  Denies dizziness, 
numbness,
weakness, pain, vision changes, nausea, vomiting.

 
Past Medical History:
hypothyroid, HLD, anxiety/depression, cholecystectomy,
hysterectomy, left total knee replacement
 
Social History:
___
Family History:
NC
 
Physical Exam:
On Discharge

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils:  PERRL ___    
EOMs: Intact

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, "hospital", and ___.

Language: Speech with dysarthria, good comprehension. No 
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2 to 1mm 
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch
 
Pertinent Results:
___ CT HEAD W/O CONTRAST 
1. Unchanged hyperdense extra-axial fluid layering primarily 
along the left temporoparietal convexity without evidence of 
significant mass effect. 
2. Mild paranasal sinus disease. 

___ CT HEAD W/O CONTRAST 
1. Unchanged left subdural hematoma.

___ CHEST XRAY 
IMPRESSION: 
1.  Large mediastinal mass extending from the level of the 
clavicle to just above the hemidiaphragm with mass effect:  The 
upper trachea just above the carina is shifted to the right, 
left mainstem bronchus is narrowed. 

___ CT CHEST W/CONTRAST 
Findings suggestive of a right pericardial cyst. 
Right upper lobe pulmonary nodule measuring 7 mm and right 
middle lobe nodule measuring 6 mm. 
Follow-up of the pulmonary nodules should be determined in the 
clinical 
context. 

___ ECHO:
The left atrium is elongated. Left ventricular wall thickness,
cavity size, and global systolic function are normal (LVEF>55%).
Tissue Doppler imaging suggests an increased left ventricular
filling pressure (PCWP>18mmHg). Right ventricular chamber size
and free wall motion are normal. The ascending aorta is mildly
dilated. There are three aortic valve leaflets. The aortic valve
leaflets are mildly thickened. There is no aortic valve 
stenosis.
Trace aortic regurgitation is seen. The mitral valve leaflets 
are
mildly thickened. There is no mitral valve prolapse. There is
moderate thickening of the mitral valve chordae. Physiologic
mitral regurgitation is seen (within normal limits). The
estimated pulmonary artery systolic pressure is normal. There is
no pericardial effusion. 
IMPRESSION: Normal biventricular regional/global systolic
function. Mild left atrial dilatation. Elevated PCWP.

___ CT HEAD W/O CONTRAST: 
Compared to ___, no significant change in left 
convexity subdural 
hematoma, measuring 6 mm in greatest dimension with minimal 2 mm 
shift of the midline structures to the right. 
  

 
Brief Hospital Course:
Mrs. ___ is a ___ year old female who is s/p 3 witnessed 
falls who presented to ___ and imaging was consistent with a 
left subdural hematoma. She was admitted to the ___ with Q2 
hour neurological checks. 

#Subdural Hematoma- A repeat ___ was performed on ___ 
which demonstrated stable left SDH. The patient remained in the 
SDU with Q2H neurological checks. She remained on Keppra 500 mg 
BID. On ___, she had an episode of increased confusion and 
slurred speech - however a NCHCT was performed and stable. 

#Mediastinal Mass: The patient was noted to have a large 
mediastinal mass on CXR while being worked up for question of 
new onset AFIB. A CT chest with contrast was ordered to further 
assess the mass which revealed a pericardial cyst, which does 
not require immediate action and follow-up imaging should be 
arranged in 3 months with the patient's primary care provider. 

#?New AFIB: A medicine consult was placed for concern of new 
onset AFIB versus NSR with PACS. Medicine recommendations were 
appreciated and were implemented for further workup. Per 
Medicine recommendations, there is no need for nodal blocking 
agent at this time given bradycardia, no need for 
anticoagulation at this time given acute on chronic subdural 
hematomas, high fall risk, and low CHADs-vasc score of 1
Will need to consider initiation of ASA 81mg as an out-patient 
for primary prevention of stroke in setting of new diagnosis of 
Afib. This should be discussed in follow-up with the patient's 
PCP and ___. 

 
 
Medications on Admission:
Lamotrigine 150mg BID, Levothyroxine 50mcg daily, Risperidone 
0.5mg daily, citalopram, Simvastatin 40mg Qhs
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Heparin 5000 UNIT SC BID  
3.  HydrALAZINE 10 mg IV Q6H:PRN SBP>160  
4.  LevETIRAcetam 500 mg PO BID  
5.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain  
6.  Senna 17.2 mg PO HS  
7.  Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush  

8.  Levothyroxine Sodium 100 mcg PO DAILY  
9.  Citalopram 20 mg PO DAILY  
10.  LamoTRIgine 150 mg PO BID  
11.  RisperiDONE 0.5 mg PO DAILY  
12.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Subdural Hematoma

 
Discharge Condition:
Mental Status: Occasionally confused 
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions

Brain Hemorrhage without Surgery

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
•***You have been prescribed Dilantin (Phenytoin) for 
anti-seizure medicine, take it as prescribed and follow up with 
laboratory blood drawing in one week.  This can be drawn at your 
PCP’s office, but please have the results faxed to ___.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptom after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___